US05665714
A. 1-O-n-Octadecyl-3-O-Trityl-Glycerol (Trityl-batylalcohol) (II)
51.69 Grams (150 mmol) of batylalcohol and 62.73 g (225 mmol) freshly recrystallized tritylchloride are dissolved at 35° C. in 350 ml methylene chloride. (Note: It is recommended that the tritylchloride be freshly recrystallized from halpasol, trademark for a petroleum ether fraction, b.p. 100°-120° C.). During 15 minutes, 22.77 g (225 mmol; 31.38 ml) triethylamine is added dropwise to the stirred solution at 30°-35° C. (cooling with a water bath). The reaction is continued for six hours at ambient temperature. (Note: It is recommended that a control TLC be done to make sure that the reaction is complete). The solution is then washed with 300 ml of a NaHCO3 solution (1%), dried over anhydrous sodium sulfate, filtered and evaporated under vacuum. The oily residue (155 g) is dissolved in 660 ml acetonitrile by warming up to 70° C. with stirring. After cooling to room temperature the title product crystallizes (preferentially after adding a few seed crystals). Crystallization is completed by standing overnight at ambient temperature. The crystallizate is filtered off to yield 82.5 g (93.7%) of crude product (m.p. 53°-55° C.) which can be used for the following step without purification. Recrystallization from halpasol (310 ml) yields 71 g (80%) of pure tritylbatylalcohol. B. In a similar way, introduction of the 3-O-trityl function is accomplished for each 1-O-R-glycerol of Example 2-B.

reactant | batylalcohol | 150 mmol | CCCCCCCCCCCCCCCCCCOCC(CO)O | C21H44O3
reactant | tritylchloride | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 225 mmol, 31.38 ml, 22.77 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 350 ml | C(Cl)Cl | CH2Cl2
product | 1-O-n-Octadecyl-3-O-Trityl-Glycerol | 82.5 g, 93.7% | C(CCCCCCCCCCCCCCCCC)OCC(O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H58O3
